Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Zocor / Crestor / Lipitor
 
Attending: ___.
 
Chief Complaint:
Unresponsiveness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old woman with past medical history of hypertension and
depression (recently started on a trial of sertraline 7 days 
ago)
who initially presented to ___ after her daughter found
her unresponsive in bed with right gaze preference and was
subsequently transferred to ___ out of concern for R MCA
syndrome w possibility of intravascular intervention. History
notable for a fit elderly woman with independent mobility who
recently started to take sertraline for mood 7 days ago. Three
days ago, she complained of some chest pain and shortness of
breath and presented to ___ where workup was negative
(EKG, CXR) and she was sent home. No reported focal weaknesses 
at
that time. Since then, she has been more tired but without
shortness of breath. Yesterday, her daughter reports that she
suddenly started drinking more water and they thought this was a
good thing because she was so tired. Overnight, the patient fell
asleep as usual, with her daughter by her side. At around 
4:30AM,
her daughter noticed that she was not stirring to wake up, like
she normally does. The daughter then woke the patient up and saw
that her eyes were deviated to the right and she was not
responding. No shaking or mouth foaming at that time. EMS was
called and code stroke was activated as above. As LKW was >4
hours, she was not candidate for tPA and so she was brought to
___ for neurointerventional evaluation. 

 
Past Medical History:
hypertension on amlodipine 5
hypothyroidism on levothyroxine 50ucg
DM2 on metformin
hyperlipidemia on pravastatin 20
mood disturbance on sertraline 50mg qhs (started last ___

 
Social History:
___
Family History:
No history of seizures or strokes

 
Physical Exam:
ADMISSION EXAMINATION
=====================
Vitals: afebrile< HR ___, BP 120-140s/60s, RR16-18, 100RA 
glucose
132
General: Awake, eyes open, agitated, moving all extremities
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Says her name in response to her daughter's
request in ___. Does not regard examiner. Does not follow
commands with the exception of just once saying her name. 
Pulling
at lines and moving in CT scanner.
-Cranial Nerves:
II, III, IV, VI:  Eye closure tight, cannot assess pupils in
detail but appear symmetric and reactive. EOMI without 
nystagmus.
Right visual field cut to finger threat. 
Lip closure is tight and symmetric.

-Motor: Decreased bulk, normal tone throughout. 
No adventitious movements, such as tremor, noted. No asterixis
noted. All extremities are at least anti-gravity and with at
least ___ resistance to opposing movements and symmetric. 
-Sensory: Withdraws from noxious in all extremities briskly.

-DTRs: ___ response was flexor bilaterally.

-Coordination: deferred

-Gait: deferred

DISCHARGE EXAMINATION
=====================
O/E: VSS. In bed w/ her daughter at the bed side feeding her
breakfast. Awake, but lethargic. Slowed & minimal speech. ___ 
--
intact. Oriented. Moves all extremities well.
 
Pertinent Results:
___ 02:46AM BLOOD WBC-5.2 RBC-3.33* Hgb-10.3* Hct-29.7* 
MCV-89 MCH-30.9 MCHC-34.7 RDW-14.6 RDWSD-46.9* Plt ___
___ 06:33AM BLOOD ___ PTT-26.5 ___
___ 07:00AM BLOOD Glucose-108* UreaN-19 Creat-0.7 Na-142 
K-4.7 Cl-100 HCO3-20* AnGap-22*
___ 02:46AM BLOOD Calcium-8.5 Phos-3.4 Mg-2.0
___ 12:41AM BLOOD %HbA1c-5.7 eAG-117
___ 12:41AM BLOOD Triglyc-60 HDL-103 CHOL/HD-1.5 LDLcalc-39
___ 12:41AM BLOOD TSH-1.8  
___ 03:45PM BLOOD CRP-10.0* ESR-14

___ 05:50AM URINE Color-Yellow Appear-Clear Sp ___
___ 05:50AM URINE Blood-SM* Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-MOD*
___ 05:50AM URINE Hours-RANDOM Creat-183 Na-23 Cl-72
___ 05:50AM URINE Osmolal-541
___ 01:14AM URINE Hours-RANDOM Creat-22 Na-<20 Cl-<20
___ 01:14AM URINE Osmolal-122

___ 8:00 am URINE      CATHETER. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH. 

___ 6:___RAIN PERFUSION; CTA NECK W&W/OC & RECONS; 
CTA HEAD W&W/O C & RECONS 
1. No convincing evidence for acute intracranial hemorrhage. 
2. increased mean transit time in the region of right middle 
cerebral artery with areas of low blood volume in the frontal 
and parietal lobes indicate ischemia with likely infarct core.  
However, it is difficult to assess the exact size of the 
penumbra.  MRI can help for further assessment to determine the 
size of the infarct core. 
3. Multifocal atherosclerotic disease, as detailed above, with 
mild 
asymmetrically decreased arborization of the distal right M3/M4 
branches.  No convincing large vessel occlusion. 
4. Additional findings, as above. 

___ 2:28 ___ MR HEAD W/O CONTRAST 
1. Study is mildly degraded by motion. 
2. No evidence of acute infarct. 
3. Within limits of study, no definite evidence of intracranial 
mass. 
4. Global volume loss and probable microangiopathic changes. 
5. Minimal paranasal sinus disease and nonspecific bilateral 
mastoid fluid as described. 

___ 5:___HEST W/CONTRAST 
No evidence of intrathoracic malignancy or infection. 
  
Mild cardiomegaly.  Moderate atherosclerotic coronary 
calcification, 
hemodynamic significance indeterminate. 
  
Mild to moderate small airway obstruction. 

EEG Study Date of ___ 
This is an abnormal continuous ICU EEG monitoring study because 
of diffuse background slowing indicative of a mild 
encephalopathy which is 
nonspecific as to etiology. Medication effects, toxic/metabolic 
disturbances and/or infection are among the most common causes. 
Focal slowing over the right hemisphere is indicative of 
cerebral dysfunction in this region and consistent with the 
known right MCA stroke. There are no pushbutton activations, 
epileptiform discharges or electrographic seizures. 

Portable TTE (Complete) Done ___ at 12:12:03 ___
1) Normal biventricular regional/global systolic function.
2) Likely normal LV diastolic function considering age with 
normal LA size. 
3) Mild aortic regurgitation.
 
Brief Hospital Course:
___ woman with history notable for HTN, hypothyroidism, 
DMII, HLD, and depression transferred from ___ after 
presenting with unresponsiveness and right gaze preference 
initially concerning for acute stroke. Mental status improved 
following admission, with CT and MR brain imaging revealing no 
evidence of underlying acute ischemia or hemorrhage. CT 
perfusion imaging notable for relative decrease in right-sided 
perfusion, which, along with right gaze preference and 
resolution of symptoms, suggest left-sided seizure. EEG 
monitoring did not demonstrate further concerning epileptiform 
discharges or seizures during the admission.

Initial laboratory evaluation notable for hypoglycemia, likely 
precipitating the initial seizure event. Laboratory testing 
consistent with SIADH, with CT chest not demonstrating evidence 
of underlying malignancy. Review of medications notable for 
recent initiation of sertraline; per Nephrology evaluation, 
SSRIs have been associated with SIADH. Sertraline discontinued, 
and sodium corrected initially with hypertonic saline and 
subsequently with free water restriction. Sodium levels 
normalized and mental status improved prior to discharge.

Of incidental note, TTE obtained for evaluation of new dyspnea 
and exercise intolerance prior to admission demonstrated normal 
systolic and likely normal age-adjusted diastolic function.

TRANSITIONAL ISSUES
1. Ambulatory sodium check following discharge to ensure 
resolution of hyponatremia.
2. Avoidance of further trials of SSRIs.
3. If continued somnolence after discharge, please contact Dr. 
___ for recommendations regarding potential weaning 
of levetiracetam.
 
Medications on Admission:
1. amLODIPine 5 mg PO DAILY 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. MetFORMIN (Glucophage) 500 mg PO DAILY 
4. Pravastatin 20 mg PO QPM 
5. Sertraline 25 mg PO QHS 
6. Baclofen 10 mg PO BID:PRN Muscle Spasms 

 
Discharge Medications:
1.  LevETIRAcetam 500 mg PO Q12H  
2.  Omeprazole 20 mg PO DAILY  
3.  amLODIPine 5 mg PO DAILY  
4.  Baclofen 10 mg PO BID:PRN Muscle Spasms  
5.  Levothyroxine Sodium 50 mcg PO DAILY  
6.  MetFORMIN (Glucophage) 500 mg PO DAILY  
7.  Pravastatin 20 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Provoked seizure
2. Syndrome of inappropriate antidiuretic hormone secretion, 
likely secondary to medication effect from sertraline

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were transferred to ___ from 
___ after being found unresponsive. Although there was 
initial concern that you may have had a stroke, no stroke was 
identified with CT and MR images of your brain, and your 
symptoms improved over the course of your stay. Instead, you 
were found to have very low sodium levels at the time of your 
transfer, which may have been caused by one of your recent 
medications (sertraline); these low sodium levels likely led to 
a seizure that caused your symptoms.

During your stay, you were also seen by the Nephrology service, 
who also felt that your low sodium was likely related to your 
medications; you were treated with concentrated saline solution 
and restriction of your free water intake, after which your 
sodium levels improved. You did not have further seizures during 
your stay.

You should avoid taking sertraline as a result of your reaction 
to this medication. You may resume taking your other usual 
medications.

Please follow up with your primary care provider ___ ___ 
weeks of discharge. Your visiting nurse ___ check your sodium 
levels at home and send this information to your primary care 
provider, who will review it with you. Please also follow up 
with Neurology at the appointment listed below.

It was a pleasure taking care of you at ___.

Sincerely,
Neurology at ___
 
Followup Instructions:
___